US07579368B2
Ethyl 4-bromo-2,5-diethoxybenzoate (0.615 g, 1.94 mmol), zinc cyanide (0.137 g, 1.17 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.157 g, 0.136 mmol) were combined under nitrogen in a flame-dried Schlenk tube. Dimethylformamide (7 mL) was added and the reaction mixture was put through three freeze-pump-thaw cycles and then put under a nitrogen atmosphere and heated at 80° C. for 16 h. After cooling to room temperature, water (50 mL) was added and the resulting mixture was extracted with diethyl ether (100 mL, 2×50 mL). The combined organic phases were washed with brine (3×50 mL) and then dried over magnesium sulfate and concentrated. Purification of the crude residue by flash column chromatography (silica gel, eluting with 33% ethyl acetate in hexanes) gave ethyl 4-cyano-2,5-diethoxy-benzoate as an off-white solid (0.416 g, 81%).

reactant | Ethyl 4-bromo-2,5-diethoxybenzoate | 1.94 mmol, 0.615 g | BrC1=CC(=C(C(=O)OCC)C=C1OCC)OCC | C13H17BrO4
reactant | Dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 1.17 mmol, 0.137 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.136 mmol, 0.157 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
product | ethyl 4-cyano-2,5-diethoxy-benzoate | 0.416 g, 81% | C(#N)C1=CC(=C(C(=O)OCC)C=C1OCC)OCC | C14H17NO4
